US04458066
5'-O-Dimethoxytritylthymidine (1.6 g, 2.9 mmol) in anhydrous tetrahydrofuran (5 ml) was added dropwise to a well stirred solution at -78° of CH3OPCl2 (0.33 ml, 2.5 mmol) and collidine (1.86 ml, 14.1 mmol) in anhydrous tetrahydrofuran (5 ml). A white precipitate formed during the addition. The mixture was stirred for 15 min at -78° and then filtered through a sintered glass funnel to remove collidine hydrochloride. The collidine hydrochloride was washed with dry tetrahydrofuran (1 ml). The filtrate was then diluted with dry toluene and concentrated to a gum. After dry argon had been bled into the apparatus, a solution (6 ml) containing toluene:tetrahydrofuran (2:1) was added and the gum was allowed to dissolve completely in this solution. solvent was removed by concentration in vacuo. This reconcentration using a solution of toluene and tetrahydrofuran was repeated three times. After the final concentration, the gum was dissolved in dry tetrahydrofuran (3 ml), cooled to -78° and a solution of tetrazole (0.18 g, 2.6 mmol) in dry tetrahydrofuran (3 ml) was added dropwise. A white precipitate of collidine hydrochloride formed during the addition. The mixture was stirred an additional 10 min at -78° and then transferred using positive argon pressure and a cannula to a centrifuge tube filled with argon. The supernatant recovered after centrifugation contained the tetrazolylphosphite product which can be used directly for synthesis of deoxyoligonucleotides. Alternatively, the tetrazolylphosphite can be stored as a precipitate and reconstituted as needed.

reactant | 5'-O-Dimethoxytritylthymidine | 2.9 mmol, 1.6 g | CC1=CN(C(=O)NC1=O)C2CC(C(O2)COC(C3=CC=CC=C3)(C4=CC=C(C=C4)OC)C5=CC=C(C=C5)OC)O | C31H32N2O7
reactant | CH3OPCl2 | 2.5 mmol, 0.33 ml | COP(Cl)Cl | CH3Cl2OP
reactant | collidine | 14.1 mmol, 1.86 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | tetrazole | 2.6 mmol, 0.18 g | N1N=NN=C1 | CH2N4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | collidine hydrochloride | Cl.N1=C(C=C(C=C1C)C)C | InChI=1S/C8H11N.ClH/c1-6-4-7(2)9-8(3)5-6;/h4-5H,1-3H3;1H
